US08071651B2
FFFF (R)-(6-Oxaspiro[2.5]oct-1-yl)amine
A solution of 0.528 g of (R)-6-oxaspiro[2.5]-octane-1-carboxylic acid in 5 ml of tetrahydrofuran is mixed with 1.20 ml of triethylamine, and the solution is then cooled to 0° C. The solution is mixed with 0.657 ml of ethyl chloroformate, and the reaction mixture is stirred at 0° C. for 1 hour. A solution of 4.44 g of sodium azide in 5 ml of water is added and the reaction mixture is stirred at 0° C. for a further hour. The reaction mixture is diluted with water and extracted with tert-butyl methyl ether. The combined extracts are washed with brine, dried with sodium sulphate and evaporated. The residue is taken up in 5 ml of benzene, and the solution is heated to reflux for 2 hours and then evaporated. The residue is dissolved in 5 ml of tetrahydrofuran, and 5 ml of water and 0.347 g of lithium hydroxide are added. The reaction mixture is stirred at room temperature for 3 hours and then adjusted to pH 2 with 4M HCl. The tetrahydrofuran is distilled off, and the aqueous residue is adjusted to pH 12 with 2M NaOH. The aqueous phase is extracted with dichloromethane, and the combined organic extracts are dried over sodium sulphate and evaporated. The title compound is obtained as a yellow oil which is employed without further purification in the next stage. Rf=0.26 (dichloro-methane-methanol-conc. ammonia 25% 200:20:1).

reactant | (R)-6-oxaspiro[2.5]-octane-1-carboxylic acid | 0.528 g | [C@H]1(CC12CCOCC2)C(=O)O | C8H12O3
reactant | triethylamine | 1.20 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.657 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 4.44 g | [N-]=[N+]=[N-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | (R)-(6-Oxaspiro[2.5]oct-1-yl)amine | [C@H]1(CC12CCOCC2)N | C7H13NO
